US06353006B1
N-(2-Hydroxyethyl)aniline was reacted with SOCl2 according to Method B7a to give N-2-chloroethyl)anilinium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to afford 2-(2-methyl -4-nitrophenylimino)-3-phenyl-1,3-thiazolidine.

reactant | chloroethylamine | ClCCN | C2H6ClN
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl -4-nitrophenylimino)-3-phenyl-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1C1=CC=CC=C1 | C16H15N3O2S
